US07423050B2
Resuspend the crude 2-amino-(6-(1-methylpiperidin-4-ylcarbonyl)-pyridine (14.5 g, 66.2 mmol) in ethanol (30 mL), add 2.5M HCl/ethanol (100 mL), stir the mixture for 30 minutes, and then remove the solvent under reduce pressure. Resuspend the resulting solid in 125 ml isopropanol and heat under reflux for 30 minutes. Cool the reaction mixture to room temperature, filtered-off the precipitate, rinse with 20 ml isopropanol, and dry under vacuum at 50° C. to obtain 2-amino-(6-(1-methylpiperidin-4-ylcarbonyl)-pyridine 2HCl (11 g, 63% yield corrected by HPLC % w/w).

reactant | 6-(1-methylpiperidin-4-ylcarbonyl)-pyridine | 66.2 mmol, 14.5 g | CN1CCC(CC1)C(=O)C1=CC=CC=N1 | C12H16N2O
reactant | HCl ethanol | 2.5M, 100 mL | Cl.C(C)O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 6-(1-methylpiperidin-4-ylcarbonyl)-pyridine 2HCl | 11 g, 63% yield | Cl.Cl.CN1CCC(CC1)C(=O)C1=CC=CC=N1 | InChI=1S/C12H16N2O.2ClH/c1-14-8-5-10(6-9-14)12(15)11-4-2-3-7-13-11;;/h2-4,7,10H,5-6,8-9H2,1H3;2*1H
